datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)NC(C[S-:10])C(=O)[O-].O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CC(=O)NC(C[S:10][H:20])C(=O)[O-].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"C1CC[NH:10]CC1.CC([NH3+])C(=O)[O:21][H:20]>>C1CC[NH+:10]([H:20])CC1.CC([NH3+])C(=O)[O-:21] 10=20;20,21=21",
"O=C(c1ncccn1)[O-:10].O=C1c2ccc([N+](=O)[O-])cc2C(=O)[N:21]1[H:20]>>O=C(c1ncccn1)[O:10][H:20].O=C1c2ccc([N+](=O)[O-])cc2C(=O)[N-:21]1 10=20;20,21=21",
"COC(=O)c1cc(O)c(O)c([O-:10])c1C[NH+](C)C.NC(CC(c1ccccc1)[NH2+:21][H:20])=NO>>COC(=O)c1cc(O)c(O)c([O:10][H:20])c1C[NH+](C)C.NC(CC(c1ccccc1)[NH2:21])=NO 10=20;20,21=21",
"CC[N+:21](CC)(Cc1cc(Cl)ccc1[O-])[H:20].COc1cc(CO)ccc1[O-:10]>>CC[N:21](CC)Cc1cc(Cl)ccc1[O-].COc1cc(CO)ccc1[O:10][H:20] 10=20;20,21=21",
"O=Nc1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=Nc1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1ccccc1C[N:10](C)C.Clc1ccc(CNc2nc[n+:21]([H:20])c3[nH]ncc23)cc1>>Cc1ccccc1C[N+:10](C)(C)[H:20].Clc1ccc(CNc2nc[n:21]c3[nH]ncc23)cc1 10=20;20,21=21",
"Cc1ccc(C2CCC[NH:10]2)cc1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>Cc1ccc(C2CCC[NH+:10]2[H:20])cc1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(C)Nc1nc[n+:21]([H:20])c2[nH]ncc12.CC1=CSC2=[N:10]CCCN12>>CC(C)Nc1nc[n:21]c2[nH]ncc12.CC1=CSC2=[N+:10]([H:20])CCCN12 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.O=C(O[C@@H]1C[C@H]2CC[C@@H](C1)[NH:10]2)C(CO)c1ccccc1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.O=C(O[C@@H]1C[C@H]2CC[C@@H](C1)[NH+:10]2[H:20])C(CO)c1ccccc1 10=20;20,21=21",
"Brc1ccc(-c2c[n:10]c(-c3ccccc3)o2)cc1.Cc1ccc(C(=O)[O:21][H:20])cc1O>>Brc1ccc(-c2c[n+:10]([H:20])c(-c3ccccc3)o2)cc1.Cc1ccc(C(=O)[O-:21])cc1O 10=20;20,21=21",
"CC(C)=CCC1=C(O)C(O)(CC=C(C)C)C(=O)C(C(=O)CC(C)C)=C1[O-:10].CN(C)c1cccc2c(S(=O)(=O)[NH:21][H:20])cccc12>>CC(C)=CCC1=C(O)C(O)(CC=C(C)C)C(=O)C(C(=O)CC(C)C)=C1[O:10][H:20].CN(C)c1cccc2c(S(=O)(=O)[NH-:21])cccc12 10=20;20,21=21",
"CC[C@@H]1C(=O)OC[C@@H]1Cc1c[n+:21]([H:20])cn1C.COc1cccc(OC)c1-c1nc2ncccc2[n-:10]1>>CC[C@@H]1C(=O)OC[C@@H]1Cc1c[n:21]cn1C.COc1cccc(OC)c1-c1nc2ncccc2[n:10]1[H:20] 10=20;20,21=21",
"CCCC[NH:10]CCN.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCC[NH+:10](CCN)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=C1C=C(C(=O)[O:21][H:20])OC(c2ccccc2)=C1.O=C1C=CC(Br)=CC=C1[O-:10]>>O=C1C=C(C(=O)[O-:21])OC(c2ccccc2)=C1.O=C1C=CC(Br)=CC=C1[O:10][H:20] 10=20;20,21=21",
"CCCc1cccn[n:10]1.OCCn1c[n+:21]([H:20])c2ccccc21>>CCCc1cccn[n+:10]1[H:20].OCCn1c[n:21]c2ccccc21 10=20;20,21=21",
"C1=C(c2nc3ccccc3o2)C2CC[N+:21]1([H:20])CC2.c1nc2c(c[n:10]1)NCCN2>>C1=C(c2nc3ccccc3o2)C2CC[N:21]1CC2.c1nc2c(c[n+:10]1[H:20])NCCN2 10=20;20,21=21",
"COc1cccc(C(c2ccccc2)=[NH:10])c1.O=C(c1ccc(/C=C/[N+](=O)[O-])cc1)[O:21][H:20]>>COc1cccc(C(c2ccccc2)=[NH+:10][H:20])c1.O=C(c1ccc(/C=C/[N+](=O)[O-])cc1)[O-:21] 10=20;20,21=21",
"CCC[n+]1cccc2c([O-:10])cccc21.Nc1cc[n+:21]([H:20])c2ccc3ncccc3c12>>CCC[n+]1cccc2c([O:10][H:20])cccc21.Nc1cc[n:21]c2ccc3ncccc3c12 10=20;20,21=21",
"CC[NH:10]C[Si](C)(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+:10](C[Si](C)(C)C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"OC1(c2cc3ccccc3o2)C[N+:21]2([H:20])CCC1CC2.c1cc2ccc([O-:10])cc2nn1>>OC1(c2cc3ccccc3o2)C[N:21]2CCC1CC2.c1cc2ccc([O:10][H:20])cc2nn1 10=20;20,21=21",
"CCC(C)[NH:10]CC(C)C.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CCC(C)[NH+:10](CC(C)C)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(C(Cl)Cl)[O:21][H:20].O=C1CCCC(=O)[N-:10]1>>O=C(C(Cl)Cl)[O-:21].O=C1CCCC(=O)[N:10]1[H:20] 10=20;20,21=21",
"Cc1cc(Nc2ccc([O-:10])cc2)c(C(C)C)cc1O.S=C1Nc2cncnc2[N:21]1[H:20]>>Cc1cc(Nc2ccc([O:10][H:20])cc2)c(C(C)C)cc1O.S=C1Nc2cncnc2[N-:21]1 10=20;20,21=21",
"NCCC[NH:10]CCO.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NCCC[NH+:10](CCO)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"NCCSCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NCCSCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C(COCCc1nnn[n:21]1[H:20])OCCc1nnn[n-]1.N#Cc1ccc(O[C@H]2O[C@@H](C(=O)[O-:10])[C@H](O)[C@@H](O)[C@@H]2O)cc1>>C(COCCc1nnn[n-:21]1)OCCc1nnn[n-]1.N#Cc1ccc(O[C@H]2O[C@@H](C(=O)[O:10][H:20])[C@H](O)[C@@H](O)[C@@H]2O)cc1 10=20;20,21=21",
"N/C(C[NH3+])=[S+:21]/[H:20].O=C([C@@H]1C[C@@H](O)C[NH2+]1)[O-:10]>>NC(C[NH3+])=[S:21].O=C([C@@H]1C[C@@H](O)C[NH2+]1)[O:10][H:20] 10=20;20,21=21",
"Brc1cc2ccc[n+:21]([H:20])c2c2ncccc12.Nc1cccc2c1c(N)c1ccccc1[n:10]2>>Brc1cc2ccc[n:21]c2c2ncccc12.Nc1cccc2c1c(N)c1ccccc1[n+:10]2[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CNC(=O)C(Cc1c[nH]cn1)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CNC(=O)C(Cc1c[nH]cn1)[NH2+:10][H:20] 10=20;20,21=21",
